US04017522
N-methyl-N-(2-benzoyloxyethyl)lauramide
N-methyl-N-(2-benzoyloxyethyl)lauramide was prepared by the procedure of example 1 from 26 gms. (0.1 mole) of N-methyl-N-(2-hydroxyethyl)lauramide and 14 gms. (0.1 mole) of benzoyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N-methyl-N-(2-hydroxyethyl)lauramide | 0.1 mole | CN(C(CCCCCCCCCCC)=O)CCO | C15H31NO2
reactant | benzoyl chloride | 0.1 mole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-methyl-N-(2-benzoyloxyethyl)lauramide | CN(C(CCCCCCCCCCC)=O)CCOC(C1=CC=CC=C1)=O | C22H35NO3
